* Z:\mnt\design.r\spice\examples\1700.asc
M§Q1 N003 N005 0 0 Si9804DY
M§Q2 N003 N007 OUT OUT Si9803DY
C1 N004 0 .001µ
C2 N001 0 220p
R1 OUT N006 316K
R2 N006 0 100K
R3 N002 N001 5K
L1 IN N003 1.8µ
V1 IN 0 2.5
C4 OUT 0 200µ Rser=50m
Rload OUT 0 20
XU1 0 N002 N006 N004 0 N007 OUT N005 0 N003 LTC1700
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC1700.sub
.backanno
.end
